US08110685B2
Subsequently, in a stream of argon, 500 mL of diethylene glycol was added to 16.8 g (92.6 mmol) of 4-azafluorene-9-one and 25 mL (370 mmol) of hydrazine monohydrate, and was heated and stirred at 168° C. for 3 hours. After the reaction liquid was cooled to room temperature, an aqueous solution of sodium chloride was added to the reaction liquid, and then, was extracted with ethyl acetate. The organic phase was washed with water, dried over sodium sulfate and concentrated, to thereby obtain 15.3 g of 4-azafluorene (99% yield).

reactant | 4-azafluorene-9-one | 92.6 mmol, 16.8 g | C1=CC=NC=2C3=CC=CC=C3C(C12)=O | C12H7NO
reactant | hydrazine monohydrate | 370 mmol, 25 mL | O.NN
reactant | sodium chloride | [Cl-].[Na+]
solvent | diethylene glycol | 500 mL | C(COCCO)O | C4H10O3
product | 4-azafluorene | 15.3 g, 99% yield | C1=CC=NC=2C3=CC=CC=C3CC12 | C12H9N
